US06664260B2
A 500 mL Parr bottle was charged with a solution of 3-nitro-2-phenoxy-N-[2-(3-pyridin-3-ylpropoxy)ethyl]-5,6,7,8-tetrahydroquinolin-4-amine in toluene (150 mL) and 5% Pt/C catalyst (1.1 g), placed on Parr apparatus and charged with hydrogen (˜54 psi, 3.8 Kg/cm2). The reaction was allowed to shake for 4 hours, at which time the reaction was monitored by HPLC. The reaction was not complete. An additional 1.0 g 5% Pt/C catalyst was added to the Parr bottle, it was recharged with hydrogen and shaken overnight. The reaction was then complete. The mixture was filtered through Celite and washed with toluene (500 mL). The filtrate was concentrated to provide 2-phenoxy-N4-[2-(3-pyridin-3-ylpropoxy)ethyl]-5,6,7,8-tetrahydroquinoline-3,4-diamine as a yellow syrup (8.2 g, 74%). TLC (10% MeOH/CH2Cl2, Rf=0.48). Mass-spec M+1=419.2

reactant | 3-nitro-2-phenoxy-N-[2-(3-pyridin-3-ylpropoxy)ethyl]-5,6,7,8-tetrahydroquinolin-4-amine | [N+](=O)([O-])C=1C(=NC=2CCCCC2C1NCCOCCCC=1C=NC=CC1)OC1=CC=CC=C1 | C25H28N4O4
reactant | hydrogen | [H][H] | H2
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pt/C | 1.1 g | [Pt] | Pt
catalyst | Pt/C | 1.0 g | [Pt] | Pt
product | 2-phenoxy-N4-[2-(3-pyridin-3-ylpropoxy)ethyl]-5,6,7,8-tetrahydroquinoline-3,4-diamine | 8.2 g, 74% | O(C1=CC=CC=C1)C1=NC=2CCCCC2C(=C1N)NCCOCCCC=1C=NC=CC1 | C25H30N4O2
